US05580893
N-(2-Nitroxyethyl)-2-methyl-2-(4-chlorophenoxy)propanamide (Exemplified compound No. 47)
Following a similar treatment to that in Example 2 and using 0.91 g of 2-methyl-2-(4-chlorophenoxy)propionic acid and 0.60 g of nitroxyethylamine nitrate, 0.21 g of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 2-methyl-2-(4-chlorophenoxy)propionic acid | 0.91 g | CC(C(=O)O)(C)OC1=CC=C(C=C1)Cl | C10H11ClO3
reactant | nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-methyl-2-(4-chlorophenoxy)propanamide | 0.21 g | O([N+](=O)[O-])CCNC(C(C)(OC1=CC=C(C=C1)Cl)C)=O | C12H15ClN2O5
